US05861401
A mixture of 4-nitrophenyl 2-iodobenzenesulphonate (0.405 g), 4-isobutylphenylboronic acid (obtained as described in European Patent Application, publication No. 0569193) (0.179 g), tetrakis(triphenylphosphine)palladium(0) (0.058 g), toluene (15 ml), ethanol (10 ml) and 2M sodium carbonate solution (5.5 ml) was stirred vigorously and heated under reflux for 5 hours. Water (20 ml) was added and the mixture was extracted with ethyl acetate (2×25 ml). The combined extracts were washed with saturated sodium chloride solution (25 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by elution with ethyl acetate/hexane (1:3 v/v) through a silica gel Mega Bond Elut column to give 4-nitrophenyl 4'-isobutyl-2-biphenylsulphonate (0.349 g); 1H NMR (d6 -DMSO): 0.9 (d,6H), 1.8-2.0 (m,1H), 2.5 (d,2H), 7.1-7.25 (m,4H), 7.35 (d,2H), 7.55 (d,1H), 7.7 (t,1H), 7.9 (t,1H), 8.05 (d,1H), 8.2 (d,2H); mass spectrum (+ve FAB, DMSO/methanol/NBA): 412 (H+H)+.

reactant | 4-nitrophenyl 2-iodobenzenesulphonate | 0.405 g | IC1=C(C=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8INO5S
reactant | 4-isobutylphenylboronic acid | 0.179 g | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 5.5 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 20 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-nitrophenyl 4'-isobutyl-2-biphenylsulphonate | 0.349 g | C(C(C)C)C1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C22H21NO5S
